US06936602B1
In 1,2-dichloroethane (15 ml) was dissolved methyl 7-[4-(2-butoxyethoxy)phenyl]-1-benzazepine-4-carboxylate (0.50 g). To the solution were added 1,3-thiazole-5-carbaldehyde 10.43 g) and sodium triacetoxyborohydride (0.80 g), and the mixture was stirred at room temperature for 24 hours. To the mixture was added sodium triacetoxyborohydride (0.27 g), and the mixture was stirred for 6 hours. The solvent was removed under reduced pressure, the resulting residue was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried with magnesium sulfate. The solvent was removed under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane/ethyl acetate=3/2→2/3) to give methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(1,3-thiazol-5-ylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylate (0.50 g).

reactant | methyl 7-[4-(2-butoxyethoxy)phenyl]-1-benzazepine-4-carboxylate | 0.50 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(CC(=CC=N2)C(=O)OC)C1 | C24H27NO4
reactant | 1,3-thiazole-5-carbaldehyde | 10.43 g | S1C=NC=C1C=O | C4H3NOS
reactant | sodium triacetoxyborohydride | 0.80 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 0.27 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
product | methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(1,3-thiazol-5-ylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 0.50 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC2=CN=CS2)C(=O)OC)C1 | C28H32N2O4S
